US07432275B2
2. Phosphoric acid mono-(2-{2-tert-butyl-5-[7-(3-trifluoromethyl-pyridin-2-yl)-quinazolin-4-ylamino]-phenoxy}-ethyl) ester
Hydrogenate a mixture of phosphoric acid 2-{2-tert-butyl-5-[7-(3-trifluoromethyl-pyridin-2-yl)-quinazolin-4-ylamino]-phenoxy}-ethyl ester dibenzyl ester (65 mg) and 10% Pd/C (60 mg) in methanol under 1 atmosphere of hydrogen for 12 hours. Filter the mixture through Celite and evaporate to dryness to give the title compound. MS 563 (M+1).

reactant | phosphoric acid 2-{2-tert-butyl-5-[7-(3-trifluoromethyl-pyridin-2-yl)-quinazolin-4-ylamino]-phenoxy}-ethyl ester dibenzyl ester | 65 mg | C(C1=CC=CC=C1)OP(OCCOC1=C(C=CC(=C1)NC1=NC=NC2=CC(=CC=C12)C1=NC=CC=C1C(F)(F)F)C(C)(C)C)(OCC1=CC=CC=C1)=O | C40H38F3N4O5P
reactant | hydrogen | [H][H] | H2
solvent | methanol | CO | CH4O
catalyst | Pd/C | 60 mg | [Pd] | Pd
product | Phosphoric acid mono-(2-{2-tert-butyl-5-[7-(3-trifluoromethyl-pyridin-2-yl)-quinazolin-4-ylamino]-phenoxy}-ethyl) ester | C(C)(C)(C)C1=C(OCCOP(O)(O)=O)C=C(C=C1)NC1=NC=NC2=CC(=CC=C12)C1=NC=CC=C1C(F)(F)F | C26H26F3N4O5P
